US05103013
Isopropyl 2-(1,3-dithietan-2-ylidene)-2-carbamoylacetate
A solution of isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate (10 g) in methanolic ammonia (60 ml) was stirred at room temperature for 4 hrs. The mixture was concentrated and purified with n-hexane and ethyl ether to give the titled compound as a white solid. (5.2 g, 68%)

reactant | isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate | 10 g | S1C(SC1)=C(C(=O)OC(C)C)C(=O)C(=O)OOCC | C11H14O6S2
reactant | ammonia | 60 ml | N | H3N
product | Isopropyl 2-(1,3-dithietan-2-ylidene)-2-carbamoylacetate | S1C(SC1)=C(C(=O)OC(C)C)C(N)=O | C8H11NO3S2
